US06340759B1
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-[4-(2-hydroxypropoxy)phenyl]isoquinoline dihydrochloride
To the resulting 1-(4-ethylpiperazin-1-yl)-3-{4-[2-(R)-(tert-butyldimethylsilyloxy)propoxy]phenyl}isoquinoline (0.43 g) were added methanol (10 ml) and 2N hydrochloric acid (50 ml) and dissolved, and the resulting mixture was stirred at room temperature for 4.5 hr. The solvent was evaporated, and the resulting residue was adjusted to pH 10 by a 8N aqueous solution of sodium hydroxide, which was then extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol system), to give 0.22 g of the free compound of the title compound as a colorless amorphous.

reactant | 1-(4-ethylpiperazin-1-yl)-3-{4-[2-(R)-(tert-butyldimethylsilyloxy)propoxy]phenyl}isoquinoline | 0.43 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC[C@@H](C)O[Si](C)(C)C(C)(C)C | C30H43N3O2Si
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 1-(4-ethylpiperazin-1-yl)-3-[4-(2-hydroxypropoxy)phenyl]isoquinoline dihydrochloride | 0.22 g | Cl.Cl.C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OCC(C)O | InChI=1S/C24H29N3O2.2ClH/c1-3-26-12-14-27(15-13-26)24-22-7-5-4-6-20(22)16-23(25-24)19-8-10-21(11-9-19)29-17-18(2)28;;/h4-11,16,18,28H,3,12-15,17H2,1-2H3;2*1H
